US07196199B2
(1) α-(2′-hydroxybenzyl)-γ-butyrolactone
α-(2′-Hydroxybenzylidene)-γ-butyrolactone (5.0 g) was dissolved in ethanol (400 ml) and 10% palladium carbon (0.5 g) was added. The reaction mixture was reduced for 6 hr at 50 atm. The reaction mixture was filtered and the organic solvent was concentrated to give the title compound (5.0 g).

reactant | α-(2′-Hydroxybenzylidene)-γ-butyrolactone | 5.0 g | OC1=C(C=C2C(=O)OCC2)C=CC=C1 | C11H10O3
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
product | α-(2′-hydroxybenzyl)-γ-butyrolactone | 5.0 g | OC1=C(CC2C(=O)OCC2)C=CC=C1 | C11H12O3
